US06610518B2
Preparation and Isolation of N-[3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-4-(2-hydroxy-1,1-dimethylethyl)benzenesulfonamide
Streptomyces rimosus subsp. rimosus ATCC10970 maintained on a quarter strength ATCC172 agar slope was inoculated as a loopful of spores into a 300 ml Erlenmeyer flask containing 50 ml of AS-7H inoculum medium. This was allowed to incubate for 2 days at 28° C., 200 rpm on an Infors Multitron™ Shaker with 1″ throw. 2 mls of this inoculum medium was then transferred to each of sixteen 300 ml Erlenmeyer flask containing 50 ml of AP-5H production medium and incubated under the same conditions for a further 24 hours. At this point 20 mg of N-[3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-4-(tert-butyl)benzenesulfonamide (GB Patent Application No 9917858.4) dissolved in 0.5 ml of methanol was added to each of the flasks and the fermentation allowed to continue under the same conditions for a further 6 hours. Each flask was then extracted with 200 mls of ethyl acetate and the combined ethyl acetate solubles concentrated to dryness to give a gum solid, 1.4 g.

reactant | N-[3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-4-(tert-butyl)benzenesulfonamide | 20 mg | BrC=1C=NC(=NC1)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C27H30BrN5O4S
reactant | methanol | 0.5 ml | CO | CH4O
product | N-[3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-4-(2-hydroxy-1,1-dimethylethyl)benzenesulfonamide | BrC=1C=NC(=NC1)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)NS(=O)(=O)C1=CC=C(C=C1)C(CO)(C)C)C | C27H30BrN5O5S
